US07642264B2
3′-[4-(4-Chloro-3-methyl-phenyl)-6-methyl-pyrimidin-2-yl]-biphenyl-3-sulfonic acid amide
To a cooled and stirred solution of 3′-[4-(4-chloro-3-methyl-phenyl)-6-methyl-pyrimidin-2-yl]-biphenyl-3-sulfonic acid tert-butylamide (0.45 g) in dichloromethane (6 ml) was added TFA (6 ml) and the reaction mixture was allowed to stir at room temperature for 15 h. The mixture was evaporated to dryness and saturated NaHCO3 solution (5 ml), diethylether and heptane were added. The mixture was stirred at room temperature for 1 h, the precipitate was collected by filtration, washed with water and heptane. The crude product was further purified by flash chromatography on silica gel (ethylacetate/heptane) and crystallization (dichloromethane/MeOH/hexane) to yield the title compound as a white solid (0.29 g, 65%). MS (ISP) 450.1 [(M+H)+]; mp 201° C.

reactant | 3′-[4-(4-chloro-3-methyl-phenyl)-6-methyl-pyrimidin-2-yl]-biphenyl-3-sulfonic acid tert-butylamide | 0.45 g | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)C)C | C28H28ClN3O2S
reactant | TFA | 6 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 3′-[4-(4-Chloro-3-methyl-phenyl)-6-methyl-pyrimidin-2-yl]-biphenyl-3-sulfonic acid amide | 0.29 g, 65% | ClC1=C(C=C(C=C1)C1=NC(=NC(=C1)C)C=1C=C(C=CC1)C1=CC(=CC=C1)S(=O)(=O)N)C | C24H20ClN3O2S
